US09108999B2
Preparation of (S)-2-[[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-(naphthalen-2-yloxy)-phosphorylamino]-propionic acid isopropyl ester
To a solution of chiral 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (60 mg, 216 μmol) prepared in Preparation 6 in THF (8 ml) was added a THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (539 μl, 539 μmol) dropwise. The mixture was stirred at room temperature for 15 min. followed by the addition of THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(naphthalen-2-yloxy)phosphorylamino)propanoate (1.08 mL, 539 μmol). The reaction mixture was stirred at room temperature for 1 h, then additional THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (270 μl, 270 μmol) and THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(naphthalen-2-yloxy)phosphorylamino)propanoate (0.54 mL, 270 μmol) were added. The reaction mixture was then stirred at room temperature for 18 h. Methanol (2 mL) was added to quench the reaction. The mixture was purified by flash chromatography (silica gel, 1-18% MeOH in DCM) and dried in vacuo to give the title compound as a white solid (75 mg, 58%).

reactant | 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 216 μmol, 60 mg | F[C@]1([C@@H](O[C@@]([C@H]1O)(CO)F)N1C(NC(C=C1)=O)=O)C | C10H12F2N2O5
reactant | tert-butylmagnesium chloride | 539 μmol, 539 μl | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(naphthalen-2-yloxy)phosphorylamino)propanoate | 539 μmol, 1.08 mL | ClC1=C(C=CC2=CC=CC=C12)OP(=O)=N[C@H](C(=O)OC(C)C)C | C16H17ClNO4P
reactant | tert-butylmagnesium chloride | 270 μmol, 270 μl | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(naphthalen-2-yloxy)phosphorylamino)propanoate | 270 μmol, 0.54 mL | ClC1=C(C=CC2=CC=CC=C12)OP(=O)=N[C@H](C(=O)OC(C)C)C | C16H17ClNO4P
reactant | Methanol | 2 mL | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | (S)-2-[[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-(naphthalen-2-yloxy)-phosphorylamino]-propionic acid isopropyl ester | 75 mg, 58% | C(C)(C)OC([C@H](C)N=P(=O)OC1=C(C2=CC=CC=C2C=C1)OC[C@]1(O[C@H]([C@]([C@@H]1O)(C)F)N1C(NC(C=C1)=O)=O)F)=O | C26H28F2N3O9P
